US09079866B2
5-{2′-[(5-Aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)pyrimidin-5-amine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H15FN6O, 374.13; m/z found, 374.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.45 (d, J=1.5, 2H), 7.95-7.90 (m, 2H), 7.57-7.50 (m, 2H), 7.44-7.39 (m, 1H), 7.38-7.37 (m, 1H), 7.36-7.34 (m, 1H), 7.33-7.28 (m, 1H), 7.11 (dd, J=8.1, 1.2, 1H), 6.86 (s, 2H), 5.19 (s, 2H).

reactant | 2-(2-bromophenoxy)pyrimidin-5-amine | BrC1=C(OC2=NC=C(C=N2)N)C=CC=C1 | C10H8BrN3O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(5-Aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | NC=1C=NC(=NC1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C20H15FN6O
